US08283353B2
4-[cis-4-(2-hydroxyethoxy)cyclohexyl]-2-methyl-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 4′-({4-[cis-4-(2-hydroxyethoxy)cyclohexyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.44 g), 2,6-lutidine (0.15 mL), tert-butyl(dimethyl)silyl trifluoromethanesulfonate (0.29 mL) and tetrahydrofuran (5 mL) was stirred at room temperature for 1.5 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the obtained residue was added to a mixture of hydroxylammonium chloride (0.87 g), sodium hydrogen carbonate (1.4 g), and dimethyl sulfoxide (8 mL), which had been stirred at 40° C. for 30 min in advance, and the mixture was stirred at 90° C. for 24 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by purification by silica gel column chromatography was dissolved in tetrahydrofuran (2 mL). N,N′-Carbonyldiimidazole (0.059 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.055 mL) were added, and the mixture was stirred at room temperature for 5 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was acidified with 1 M hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). Tetrabutylammonium fluoride (0.77 mL, 1.0 M tetrahydrofuran solution) was added, and the mixture was stirred at 70° C. for 16 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.051 g, 10%).

reactant | 4′-({4-[cis-4-(2-hydroxyethoxy)cyclohexyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.44 g | OCCO[C@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C | C31H35N5O3
reactant | 2,6-lutidine | 0.15 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyl(dimethyl)silyl trifluoromethanesulfonate | 0.29 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.055 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[cis-4-(2-hydroxyethoxy)cyclohexyl]-2-methyl-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.051 g, 10% | OCCO[C@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=C(N2)C | C32H36N6O5
